US07777047B2
7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylic acid
A mixture of ethyl 7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylate (2.50 g), 1N aqueous sodium hydroxide solution (10 mL), ethanol (10 mL) and tetrahydrofuran (10 mL) was stirred at 60° C. for 1.5 hr. 1N Hydrochloric acid (10 mL) and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated to give the title compound (2.30 g, yield 98%) as colorless crystals. The crystals were recrystallized from acetone-hexane to give colorless prism crystals. melting point 207-208° C.

reactant | ethyl 7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylate | 2.50 g | CN(C=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCCS(=O)(=O)C)S(=O)(=O)C1=NC=CC=C1 | C21H25N3O7S2
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | Hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylic acid | 2.30 g, yield 98% | CN(C=1C=C(C=C2C=C(NC12)C(=O)O)OCCCS(=O)(=O)C)S(=O)(=O)C1=NC=CC=C1 | C19H21N3O7S2
